US07262212B2
2-Chloro-4-nitro-1H-imidazole (3.1 g, 21.0 mmol), tert-butyl 1-oxa-6-azaspiro[2,5]octane-6-carboxylate (4.4 g, 21.0 mmol) and sodium hydrogen-carbonate (1.94 g, 23.1 mmol) in ethanol (20 ml) were stirred under reflux for 6 hours. The reaction mixture was concentrated under reduced pressure, and the residue was added water. The resulting solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The resulting filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=100/1) to afford tert-butyl 4-(2-chloro-4-nitroimidazol-1-ylmethyl)-4-hydroxypiperidine-1-carboxylate (5.4 g, yield 72%) as a yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 21.0 mmol, 3.1 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | tert-butyl 1-oxa-6-azaspiro[2,5]octane-6-carboxylate | 21.0 mmol, 4.4 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | sodium hydrogen-carbonate | 23.1 mmol, 1.94 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | tert-butyl 4-(2-chloro-4-nitroimidazol-1-ylmethyl)-4-hydroxypiperidine-1-carboxylate | 5.4 g, yield 72% | ClC=1N(C=C(N1)[N+](=O)[O-])CC1(CCN(CC1)C(=O)OC(C)(C)C)O | C14H21ClN4O5
